US08003649B2
A mixture of 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoic acid (79 mg, 0.20 mmol), N-(2-methoxyethyl)methylamine (21 mg, 0.24 mmol), DIPEA (0.105 mL, 0.61 mmol) and HATU (92 mg, 0.24 mmol) in DMA (3 mL) was stirred at ambient temperature for 16 hours. The reaction mixture was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to give N-(2-methoxyethyl)-N-methyl-4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzamide (77 mg, 82%) as a solid.

reactant | 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzoic acid | 0.20 mmol, 79 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(C(=O)O)C=C2)(F)F | C18H16F3N5O2
reactant | N-(2-methoxyethyl)methylamine | 0.24 mmol, 21 mg | COCCNC | C4H11NO
reactant | DIPEA | 0.61 mmol, 0.105 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.24 mmol, 92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | N-(2-methoxyethyl)-N-methyl-4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzamide | 77 mg, 82% | COCCN(C(C1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O)C | C22H25F3N6O2
